US07060844B2
A mixture of 3-(5-amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one (300 mg, 1.00 mmol), bromoacetic anhydride (350 mg, 1.35 mmol) and potassium carbonate (138 mg, 1.0 mmol) in THF (10 ml) was stirred at 50° C. for 2 hours. The mixture was poured into water (100 ml). The resulting solid was filtered, washed with water, and dried under vacuum to give 2-bromo-N-[1-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide as a brown solid (380 mg, 91%).

reactant | 3-(5-amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one | 1.00 mmol, 300 mg | NC=1C=C2COC(C2=CC1)=C1C(NC2=CC=C(C=C12)Cl)=O | C16H11ClN2O2
reactant | bromoacetic anhydride | 1.35 mmol, 350 mg | BrCC(=O)OC(CBr)=O | C4H4Br2O3
reactant | potassium carbonate | 1.0 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-bromo-N-[1-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide | 380 mg, 91% | BrCC(=O)NC=1C=C2COC(C2=CC1)=C1C(NC2=CC=C(C=C12)Cl)=O | C18H12BrClN2O3
